*****************************************************************************
*****************************   README FILE   *******************************
*****************************************************************************
*
*     0.35/0.30um Logic Salicide Process SPICE Model
*
* 1. TECHNOLOGY: 0.35/0.30um Psub Twin-Well CMOS Salicide Process
*                3.3V operation TOX=70A LMIN for NMOS/PMOS:0.35um/0.35um
* 2. Model Version: *** (change document format) 
* 3. Model: HSPICE Version *** LEVEL 49.(BSIM3V3.1)
* 4. UNIT: DEFAULTS IN HSPICE LEVEL 49.
* 5. THE PARAMETERS WHICH NOT LISTED ARE DEFAULT VALUES IN HSPICE
*    LEVEL 49.
* 6. HDIF depend on actual layout.  Minimum rules are shown in this parameter
* 7. Lot-wafer  : ***
* 8. Date       :  *** 
* 9. ***
*10. Temperature Range : -55C <= Temp. <= 135C
*11. NMOS Model Library and Device Range:
*    NMOS Model Name: N_33   
*    *----------------------*
*    |  0.5um <= W <= 100um  |
*    |  0.35um <= L <= 50um  |
*    |----------------------*
*    |        TT            |   	
*    |        FF            |
*    |        SS            |
*    |        FNSP          |
*    |        SNFP          |
*    *----------------------*
*12. PMOS Model Library and Device Range:
*    PMOS Model Name: P_33  
*    *----------------------*
*    |  0.5um <= W <= 100um  |
*    |  0.35um <= L <= 50um  |
*    |----------------------*
*    |        TT            |   	
*    |        FF            |
*    |        SS            |
*    |        FNSP          |
*    |        SNFP          |
*    *----------------------*
*
*
*****************************************************************************
*****************************   Spice Model   *******************************
*****************************************************************************
.LIB TT
.model n_33 NMOS
+Level=        49 
*
* GENERAL PARAMETERS
*
*+ACM=3
+lmin=3.5e-7 lmax=5.0e-5 wmin=5e-7 wmax=1.0e-4
*+Tref=27.0
+version = 3.1
+Tox= 7.00000E-09
+Xj= 2.3000000E-07 
+Nch= 2.6427001E+17 
+lln= 1.0000000
+lwn= 1.0000000
+wln= 1.0000000
+wwn= 1.0000000
+lint= -1.1125000E-08
+ll= 1.0879250E-14
+lw= 6.7721500E-15
+lwl= -2.4999999E-21
+wint= 1.1050000E-07
+wl= -2.0138318E-14
+ww= -1.3588075E-14
+wwl= 3.34E-21
+Mobmod=  1 
+binunit= 2
+Dwg= -6.8713000E-09 
+Dwb= 9.7288070E-09 
*
* THRESHOLD VOLTAGE PARAMETERS
*
+Vth0= 0.6070000 
+K1= 0.7001386 
+K2= -1.7500001E-03 
+K3= -10.4288020 
+Dvt0= 16.1041740 
+Dvt1= 0.7475495 
+Dvt2= -3.2047360E-02 
+Dvt0w= 0.1473920 
+Dvt1w= 1.8000000E+05 
+Dvt2w= -2.4000000E-02 
+Nlx= 1.7155087E-07 
+W0= 3.3856000E-07 
+K3b= 3.4824250 
*
* MOBILITY PARAMETERS
*
+Vsat= 9.4200000E+04 
+Ua= 2.5381600E-10 
+Ub= 1.1360000E-18 
+Uc= 3.5605000E-11 
+Rdsw= 5.5450260E+02 
+Prwb= 1.3038516E-08 
+Prwg= -7.5000000E-09 
+Wr= 1.0000000 
+U0= 4.0045690E+02 
+A0= 0.6529300 
+Keta= -1.5300000E-03 
+A1= 0.00 
+A2= 0.7706810 
+Ags= 8.6840000E-02 
+B0= 1.3310000E-07 
+B1= 1.5000001E-06 
*
* SUBTHRESHOLD CURRENT PARAMETERS
*
+Voff= -0.1241650 
+NFactor= 0.9560750 
+Cit= 2.3285000E-05 
+Cdsc= 8.8010000E-04 
+Cdscb= 5.0500000E-05 
+Cdscd= 1.0000000E-20 
+Eta0= 1.7094001E-02 
+Etab= -1.3354999E-02 
+Dsub= 0.3112000 
*
* ROUT PARAMETERS
*
+Pclm= 1.8041080 
+Pdiblc1= 0.1427000 
+Pdiblc2= 1.1949505E-03 
+Pdiblcb= -5.7400000E-04 
+Drout= 0.5892000 
+Pscbe1= 3.9285000E+08 
+Pscbe2= 8.5859990E-06 
+Pvag= 0.3074510 
+Delta= 1.4900001E-03 
+Alpha0= 0.0 
+Beta0= 30.0000000 
*
* TEMPERATURE EFFECTS PARAMETERS
*
+kt1= -0.2930000 
+kt2= -2.7159998E-02 
+At= 2.8170000E+04 
+Ute= -1.0050000 
+Ua1= 4.0940000E-09 
+Ub1= -4.5000000E-18 
+Uc1= -7.8400000E-11 
+Kt1l= 0.00 
+Prt= 1.0000000E+02 
*
* CAPACITANCE PARAMETERS
*
+Cj= 1E-3 
+Mj= .359 
+Pb= 0.753 
+Cjsw= 3.13E-10 
*+Cjgate= 3.21E-10 
+Mjsw= .43 
*+PHP= 0.92 
+Cgdo=1.5E-10
+Cgso=1.5E-10
+Js=3.7E-6
+Jsw=7.83E-11
+Capmod= 2 
+NQSMOD= 0 
+Elm= 5 
+Xpart= 1 
+Ckappa= .6 
+cf=0
+Rsh=5.7
+hdif=4.5e-7
*
*MOSFET BSIM3v3 noimod=2 & 3 noise parameters:
+noimod= 2 
+NoiA=8.0769981E+19
+NoiB=4.6493420E+06
+NoiC=-3.0188414E-11
+Ef=0.9337443
+Em=4.0187329E+06


*********************************************************************
.model p_33 PMOS
+Level=       49 
*
* GENERAL PARAMETERS
*
*+ACM=3
+lmin=3.5e-7 lmax=5.0e-5 wmin=5e-7 wmax=1.0e-4
*+Tref=27.0
+version = 3.1
+Tox= 7.00000E-09
+Xj= 1.8999998E-07
+Nch= 9.9481000E+16
+lln= 1.0000000
+lwn= 1.0000000
+wln= 1.0000000
+wwn= 1.0000000
+lint= -4.3660000E-08
+ll= 3.6450000E-15
+lw= -4.3645000E-15
+lwl= 0.00
+wint= 1.0750000E-07
+wl= -1.0747600E-14
+ww= -9.3500000E-15
+wwl= 0.00
+Mobmod=  1
+binunit= 2
+Dwg= -2.1300000E-08
+Dwb= 1.7106316E-12
*
* THRESHOLD VOLTAGE PARAMETERS
*
+Vth0= -0.8019000
+K1= 0.3477580
+K2= -1.5120000E-03
+K3= 12.7474540
+Dvt0= 2.5967000
+Dvt1= 0.7361000
+Dvt2= -0.1008000
+Dvt0w= 8.1884000
+Dvt1w= 6.8075000E+06
+Dvt2w= -4.2400000E-02
+Nlx= 1.9117999E-07
+W0= 5.6500000E-07
+K3b= -1.6694280
*
* MOBILITY PARAMETERS
*
+Vsat= 1.8240000E+05
+Ua= 4.2080000E-10
+Ub= 1.9735200E-18
+Uc= -1.2000000E-11
+Rdsw= 1.0818186E+03
+Prwb= -0.1409500
+Prwg= -1.5000000E-20
+Wr= 1.0000000
+U0= 1.7853294E+02
+A0= 1.0589399
+Keta= -4.1800000E-03
+A1= 2.2400000E-08
+A2= 0.5876999
+Ags= 0.2868020
+B0= 2.5700001E-07
+B1= 1.7799999E-15
*
* SUBTHRESHOLD CURRENT PARAMETERS
*
+Voff= -0.1255000
+NFactor= 0.9781169
+Cit= 7.8803940E-04
+Cdsc= 2.5750000E-03
+Cdscb= 1.6387998E-03
+Cdscd= 1.4824999E-03
+Eta0= 0.1614200
+Etab= -8.1400000E-03
+Dsub= 0.5489320
*
* ROUT PARAMETERS
*
+Pclm= 10.7633990
+Pdiblc1= 1.1399984E-02
+Pdiblc2= 3.3800010E-04
+Pdiblcb= -5.0000000E-07
+Drout= 0.8620000
+Pscbe1= 7.2900000E+08
+Pscbe2= 1.1299417E-06
+Pvag= 24.5730990
+Delta= 2.9550001E-02
+Alpha0= 0.01
+Beta0= 80.0000000
*
* TEMPERATURE EFFECTS PARAMETERS
*
+kt1= -0.5719986
+kt2= -4.6010590E-02
+At= 9.7486740E+03
+Ute= -1.5800400
+Ua1= 1.0412212E-09
+Ub1= -3.7637900E-18
+Uc1= -9.3639840E-12
+Kt1l= -1.2900001E-10
+Prt= 1.0000000E-20
*
* CAPACITANCE PARAMETERS
*
+Cj= .00172
+Mj= .624
+Pb= 1.2
+Cjsw= 2.49E-10
*+Cjgate= 3.22E-10
+Mjsw= .383
*+PHP= .977
+Cgdo=1.4E-10
+Cgso=1.4E-10
+Js=4.85E-5
+Jsw=2.02E-9
+Capmod= 2 
+NQSMOD= 0
+Elm= 5
+Xpart= 1
+Ckappa= .6
+Clc= .0000001
+Cle= .6
+cf=0
+Rsh=3.5
+hdif=4.5e-7
*
*MOSFET BSIM3v3 noimod=2 & 3 noise parameters:
+noimod= 2 
+NoiA=9.1217914E+22
+NoiB=1.0
+NoiC=-6.5945354E-13
+Ef=1.0731569
+Em=5.4858829E+07
.ENDL TT

.LIB SS
***
.ENDL SS

.LIB FF
***
.ENDL FF

.LIB SNFP
***
.ENDL SNFP

.LIB FNSP
***
.ENDL FNSP


********************************************************************************
*Lib of Resistor
*Include 4 types resistors. They are npoly, nwell, nplus, plus.
********************************************************************************

.LIB Resistor
********************************************************************************
* npoly resistor
********************************************************************************
.subckt npoly n1 n2 l=length w=width  
.param 
+TC1=5.8689E-4	
+TC2=2.8407E-7
+VC1=3.8501E-3
+VC2=6.6478E-4
+rsh=8.5678
+pt='temper'
+dW=0.03735E-6
.param
+tfac='1+tc1*(pt-25)+tc2*(pt-25)*(pt-25)'
r1 n1 n2 'rsh*l/(w-dw)*(1+vc1*abs(v(n2,n1))+vc2*v(n2,n1)*v(n2,n1))*tfac'
.ends npoly

********************************************************************************
*  NWELL resistor
********************************************************************************
.subckt NWELL n1 n2 l=length w=width  
.param 
+TC1=4.3795E-3	
+TC2=1.7049E-5
+VC1=-1.7170E-4
+VC2=6.7559E-3
+rsh=885.3325
+pt='temper'
+dW=0.79955E-6
.param
+tfac='1+tc1*(pt-25)+tc2*(pt-25)*(pt-25)'
r1 n1 n2 'rsh*l/(w-dw)*(1+vc1*abs(v(n2,n1))+vc2*v(n2,n1)*v(n2,n1))*tfac'
.ends npoly

********************************************************************************
*   NPLUS resistor
********************************************************************************
.subckt NPLUS n1 n2 l=length w=width  
.param  
+TC1=1.3666E-3	
+TC2=8.8812E-7
+VC1=9.0911E-4
+VC2=2.7058E-5
+rsh=68.2250
+pt='temper'
+dW=-0.05325E-6
.param
+tfac='1+tc1*(pt-25)+tc2*(pt-25)*(pt-25)'
r1 n1 n2 'rsh*l/(w-dw)*(1+vc1*abs(v(n2,n1))+vc2*v(n2,n1)*v(n2,n1))*tfac'
.ends npoly

********************************************************************************
*   PPLUS resistor
********************************************************************************
.subckt PPLUS n1 n2 l=length w=width  
.param 
+TC1=1.2423E-3	
+TC2=8.8516E-7
+VC1=6.3255E-4
+VC2=2.2371E-6
+rsh=139.8400
+pt='temper'
+dW=-0.06845E-6
.param
+tfac='1+tc1*(pt-25)+tc2*(pt-25)*(pt-25)'
r1 n1 n2 'rsh*l/(w-dw)*(1+vc1*abs(v(n2,n1))+vc2*v(n2,n1)*v(n2,n1))*tfac'
.ends npoly

.endl Resistor
